US05378689
(4S)-(-)-4-Benzyl-N-[2(R)-benzyl-3-(benzyloxycarbonyl)-propionyl]-2-oxazolidinone
2.91 ml (20.8 mmole) of diisopropylamine and 13.40 ml (21.4 mmole) of butyllithium (as a 1.6M solution in hexane) were added, at -78° C. and under an atmosphere of nitrogen, to 50 ml of anhydrous tetrahydrofuran, and the mixture was stirred for 30 minutes. A solution of 5.35 g (17.3 mmole) of (4S)-(-)-4-benzyl-N-(3-phenylpropionyl)-2-oxazolidinone in 20 ml of anhydrous tetrahydrofuran was added to the resulting mixture, and then the mixture was stirred at the same temperature for 1 hour. At the end of this time, a solution of 5.74 ml (36.2 mmole) of benzyl bromoacetate in 10 ml of anhydrous tetrahydrofuran was added dropwise to the mixture, and then the mixture was stirred for 3 hours. At the end of this time, a saturated aqueous solution of sodium chloride was added to the mixture, which was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated by distillation under reduced pressure. The residue was purified by medium pressure column chromatography through silica gel (using a 1:5 by volume mixture of ethyl acetate and hexane as the eluent) to afford 5.47 g (yield 69%) of the title compound as a colorless oil.

reactant | diisopropylamine | 20.8 mmole, 2.91 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 21.4 mmole, 13.40 ml | C(CCC)[Li]
reactant | (4S)-(-)-4-benzyl-N-(3-phenylpropionyl)-2-oxazolidinone | 17.3 mmole, 5.35 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCC1=CC=CC=C1)=O | C19H19NO3
reactant | benzyl bromoacetate | 36.2 mmole, 5.74 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4S)-(-)-4-Benzyl-N-[2(R)-benzyl-3-(benzyloxycarbonyl)-propionyl]-2-oxazolidinone | 5.47 g, yield 69% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H](CC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O | C28H27NO5
